US04882330
1-Phenoxy-4-[4-(4-ethoxycarbonylphenyl)-1-piperazinyl]-2-butanol
Following the procedure of Example 25, the title compound is prepared from 4-(1-piperazinyl)benzoic acid ethyl ester and 4-chloro-1-phenoxy-2-butanol.

reactant | 4-(1-piperazinyl)benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N1CCNCC1)=O | C13H18N2O2
reactant | 4-chloro-1-phenoxy-2-butanol | ClCCC(COC1=CC=CC=C1)O | C10H13ClO2
product | 1-Phenoxy-4-[4-(4-ethoxycarbonylphenyl)-1-piperazinyl]-2-butanol | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC=C(C=C1)C(=O)OCC)O | C23H30N2O4
